US07524849B2
To 10 mL of methyl alcohol in a sealed tube is added sodium hydride (440 mg, 11 mmol) with stirring. 1-Methyl-2-imidazole carbonitrile (1.18 g, 11 mmol) is added. The mixture is stirred at room temperature for 20 h, and ammonium chloride (588 mg, 11 mmol) is added. The bottle is then sealed and stirred at 80° C. for 8 h, and cooled to room temperature. The mixture is filtered, and the filtrate is concentrated. The residue is treated with 1% methyl alcohol in diethyl ether, and the precipitates are collected by filtration and dried to give 1-methyl-2-imidazole carboxamidine hydrochloride as a gray solid (1.6 g). MS: m/z 125.2 (M+H).

reactant | sodium hydride | 11 mmol, 440 mg | [H-].[Na+]
reactant | 1-Methyl-2-imidazole carbonitrile | 11 mmol, 1.18 g | CN1C(=NC=C1)C#N | C5H5N3
reactant | ammonium chloride | 11 mmol, 588 mg | [Cl-].[NH4+]
solvent | methyl alcohol | 10 mL | CO | CH4O
product | 1-methyl-2-imidazole carboxamidine hydrochloride | 1.6 g | Cl.CN1C(=NC=C1)C(=N)N | InChI=1S/C5H8N4.ClH/c1-9-3-2-8-5(9)4(6)7;/h2-3H,1H3,(H3,6,7);1H
